US05420115
2-Amino-6-(cyclopropylamino)-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine
2-Amino-6-(cyclopropylamino)-9H-purine hydrochloride (0.3 g, 1.3 mmoles) and 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil (0.4 g, 1.6 mmoles) which may be prepared according to J. F. Codington et al. (J. Org. Chem. 29:558, 1964) were dissolved in 20 ml of 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. Thymidine phosphorylase (2,000 I.U.) and purine nucleoside phosphorylase (5,540 I.U.) (T. A. Krenitsky et al., Biochemistry 20:3615, 1981 and U.S. Pat. No. 4,381,444) were added and the reaction incubated at 37° C. On day 5, 2,000 I.U. thymidine phosphorylase and 5,540 I.U. purine nucleoside phosphorylase were added. On day 21, the reaction was applied to a 2.5×8 cm column of anion exchange resin (Bio-Rad AG1X2-hydroxide form). After washing the column with water, the product was eluted with water/methanol (7/3). The product-containing fractions were combined and the solvent removed under vacuum. The residue was dissolved in water and lyophilized to obtain title compound that analyzed as a 0.6 hydrate.

reactant | 2-Amino-6-(cyclopropylamino)-9H-purine hydrochloride | 1.3 mmoles, 0.3 g | Cl.NC1=NC(=C2N=CNC2=N1)NC1CC1
reactant | 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil | 1.6 mmoles, 0.4 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 5 mM, 20 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 2-Amino-6-(cyclopropylamino)-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@H](O)[C@H](O1)CO)F)NC1CC1 | C13H17FN6O3
